US09085581B2
Step D: Preparation of (E)-Ethyl 2-(7-(Benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-ylidene)acetate, this reaction was run as 4 separate batches in parallel as described below
To a 5000 mL 3-neck round bottom flask at room temperature under N2 equipped with a mechanical stirrer, an addition funnel, and a temperature probe containing a solution of ethyl 2-(diethoxyphosphoryl)acetate (114 mL, 577 mmol) in THF (2.0 L) was added potassium t-butoxide (1.0 M in THF, 554 mL, 554 mmol) via addition funnel over 10 minutes (temp increase from 22° C. to 29° C.). The reaction mixture was stirred for 2 h and 7-(benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-one (123 g, 444 mmol) was added in 4 portions. An additional amount of THF (750 mL) was added to further dissolve ketone. The mixture was stirred at room temperature for 16 h. Anaylasis of an aliquat from the reaction mixture using LC/MS revealed approximately 75-85% conversion to the title compound.

reactant | ethyl 2-(diethoxyphosphoryl)acetate | 577 mmol, 114 mL | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | potassium t-butoxide | 554 mmol, 1.0 M, 554 mL | CC(C)([O-])C.[K+]
reactant | 7-(benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-one | 444 mmol, 123 g | C(C1=CC=CC=C1)OC1=CC=2C=C3N(C2C=C1)CCC3=O | C18H15NO2
solvent | THF | 2.0 L | C1CCOC1 | C4H8O
solvent | THF | 750 mL | C1CCOC1 | C4H8O
product | (E)-Ethyl 2-(7-(Benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-ylidene)acetate | C(C1=CC=CC=C1)OC1=CC=2C=C\3N(C2C=C1)CC/C3=C\C(=O)OCC | C22H21NO3
